US08138189B2
A solution of 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-ethanone (7.56 g) in DMF (140 mL) was added slowly over 30 minutes to a suspension of NaH (50% in mineral oil, 2.24 g) in DMF (100 mL). Stirring was continued for 30 minutes at r.t. Then, methyl iodide (2.57 mL) was added dropwise over a period of 15 minutes. Stirring was continued for 2.5 hours at r.t. The reaction mixture was poured into ice/water and extracted two times with ethyl acetate. The organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residual DMF was removed by co-evaporation with toluene. 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-propan-1-one was obtained as an inseparable mixture with the dimethylated compound 4-[(E or Z)-2-(2-chloro-4-methoxy-phenyl)-1-methoxy-propenyl]-2-methyl-pyridine (10.22 g). This mixture was treated as follows: A mixture of 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-propan-1-one and 4-[(E or Z)-2-(2-chloro-4-methoxy-phenyl)-1-methoxy-propenyl]-2-methyl-pyridine (10.22 g) was treated with 50% aqueous H2SO4 (90 mL) at 100° C. for 30 minutes. The reaction mixture was cooled, poured into ice and basified with sat. Na2CO3 to pH 10. The aqueous phase was then extracted with ethyl acetate and the organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash chromatography (silica gel, gradient of heptane in ethyl acetate) to give the title compound as a yellow oil (5.99 g, 56%). MS (m/e)=290.1 [MH+].

reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-ethanone | 7.56 g | ClC1=C(C=CC(=C1)OC)CC(=O)C1=CC(=NC=C1)C | C15H14ClNO2
reactant | NaH | 2.24 g | [H-].[Na+]
reactant | methyl iodide | 2.57 mL | CI | CH3I
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(2-chloro-4-methoxy-phenyl)-1-(2-methyl-pyridin-4-yl)-propan-1-one | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=CC(=NC=C1)C)C | C16H16ClNO2
